US08183239B2
4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide
4-Bromo-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide. To a mixture of 4-bromo-3-fluoro-benzoic acid (3.0 mmol) and DMF (0.10 mL) in DCE (10 mL) was added (COCl)2 (4.0 mL) dropwise. After 30 min, the mixture was concentrated and dried under vacuum. The residue was dissolved in DCE (20 mL), treated with C-(3,5-dimethyl-isoxazol-4-yl)-methylamine (3.0 mmol) and TEA (8.0 mmol), and stirred at rt for 16 h. The mixture was treated with H2O (10 mL). The resulting precipitate was collected by filtration to give the title compound (650 mg, 69%).

reactant | 4-Bromo-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide | BrC1=C(C=C(C(=O)NCC=2C(=NOC2C)C)C=C1)F | C13H12BrFN2O2
reactant | 4-bromo-3-fluoro-benzoic acid | 3.0 mmol | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | (COCl)2 | 4.0 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | C-(3,5-dimethyl-isoxazol-4-yl)-methylamine | 3.0 mmol | CC1=NOC(=C1CN)C | C6H10N2O
reactant | H2O | 10 mL | O | H2O
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.10 mL | CN(C)C=O | C3H7NO
product | 4-[4-(Diethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-N-(3,5-dimethyl-isoxazol-4-ylmethyl)-3-fluoro-benzamide | 650 mg, 69% | C(C)N(C(=O)C(N1CCN(CC1)C1=C(C=C(C(=O)NCC=2C(=NOC2C)C)C=C1)F)C1=CC=CC=C1)CC | C29H36FN5O3
